US04011215
(6R,7R)-3-(2-chloroethylcarbamoyloxymethyl)7-[2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylic Acid (syn isomer)
A solution of (6R,7R)-7-[2-(fur-2-yl)-2-methoxyiminoacetamido]-3-hydroxymethylceph-3-em-4-carboxylic acid (syn isomer) (1.50 g) in N,N-dimethylformamide (30 ml, purified by filtration through basic alumina) was cooled to 5° and was treated with triethylamine (1.1 ml) and 2 -chloroethyl isocyanate (1.66 g). The reaction was stirredfor 1 hour at 5° when the ice-bath was removed and stirring continued for 1.5 hours at ca. 20°. The solution was partitioned between aqueous sodium bicarbonate solution (3%, 100 ml) and ethyl acetate (100 ml). The layers were separated and the aqueous solution was washed with ethyl acetate (3 × 100 ml), then covered with ethyl acetate (100 ml) and acidified to pH 1.8 with concentrated hydrochloric acid. The layers were separated and the aqueous layer extracted with further ethyl acetate (4 × 100 ml). The combined organic extracts were washed with water (5 × 150 ml) and saturated sodium chloride solution (100 ml) and dried (MgSO4), and the solvent was removed in vacuo to give a yellow froth which was triturated with ether (50 ml) to give the title compound as a yellow powder (0.59 g [α]D + 40° (c 1, DMSO); λmaxpH6 275 nm (ε 17,400).

reactant | (6R,7R)-7-[2-(fur-2-yl)-2-methoxyiminoacetamido]-3-hydroxymethylceph-3-em-4-carboxylic acid | 1.50 g | O1C(=CC=C1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O)=NOC | C15H15N3O7S
reactant | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | 2 -chloroethyl isocyanate | 1.66 g | ClCCN=C=O | C3H4ClNO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (6R,7R)-3-(2-chloroethylcarbamoyloxymethyl)7-[2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylic Acid | ClCCNC(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(C(=NOC)C=2OC=CC2)=O)=O | C18H19ClN4O8S
